US07311948B2
A: 4-(tetrahydropyran-2-yloxy)cinnamic acid (24)
14 ml of dihydropyran was added dropwise to a mixture of 17.8 g of 4-methoxycinnamic acid, 0.34 g of 4-toluene sulphonic acid and 100 ml of diethyl ether under a nitrogen atmosphere. After one hour stirring the solution became transparent. 150 ml of ether was added and it was extracted with 200 ml of 5% of sodium hydroxide solution and evaporated using a rotary evaporator. The residue was mixed with 50 ml of ethanol and a solution of 8 g of KOH in 50 ml of water and was refluxed for 1 hour upon which a transparent solution was obtained. It was cooled with 150 g of crushed ice. Then 50 ml of HCl (2.5 N) was added dropwise to the solution until pH=4 upon which a solid precipitated. It was filtered off and washed with water. The product was dried in a dessicator over silica. 19.59 g (yield 79%) of a white solid was obtained.

reactant | dihydropyran | 14 ml | O1CCCC=C1 | C5H8O
reactant | 4-methoxycinnamic acid | 17.8 g | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
reactant | 4-toluene sulphonic acid | 0.34 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | HCl | 2.5 N, 50 ml | Cl | ClH
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-(tetrahydropyran-2-yloxy)cinnamic acid | 19.59 g, yield 79% | O1C(CCCC1)OC1=CC=C(C=CC(=O)O)C=C1 | C14H16O4
